US05374732
In a flask, 2-chloro-3-(trifluoromethyl)pyridine (20.0 g, 110 mmol) , sodium hydrogen sulfite (46 g, 442 mmol), ethanol (200 ml) and water (200 ml) were charged and heated under reflux for 138 hours. After evaporating off the solvent from the reaction mixture, conc. hydrochloric acid was added to the residue and then evaporated to dryness. This residue was extracted with methanol, and the methanol phase was filtered and evaporated to dryness to obtain sodium 3-(trifluoromethyl)pyridine-2-sulfonate (18.6 g). Yield, 68%.

reactant | 2-chloro-3-(trifluoromethyl)pyridine | 110 mmol, 20.0 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | sodium hydrogen sulfite | 442 mmol, 46 g | S(=O)(O)[O-].[Na+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | sodium 3-(trifluoromethyl)pyridine-2-sulfonate | 18.6 g | FC(C=1C(=NC=CC1)S(=O)(=O)[O-])(F)F.[Na+] | InChI=1S/C6H4F3NO3S.Na/c7-6(8,9)4-2-1-3-10-5(4)14(11,12)13;/h1-3H,(H,11,12,13);/q;+1/p-1
